US07417169B2
Benzyl 4′-{2-[(1S,2R)-2-(4-benzyloxy-3-methanesulfonylaminophenyl)-2-hydroxy-1-methylethylamino]ethoxy}-3′,5′-dimethylbiphenyl-4-carboxylate
Methanesulfonyl chloride (0.102 mL) was added to a mixture of benzyl 4′-(2-hydroxyethoxy)-3′,5′-dimethylbiphenyl-4-carboxylate (0.381 g) and triethylamine (0.213 mL) in methylene chloride (5 mL) at room temperature with stirring. After being stirred at that temperature for 1 hr, water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to afford benzyl 4′-(2-methanesulfonyloxyethoxy)-3′,5′-dimethylbiphenyl-4-carboxylate as a crude product. Diisopropylamine (0.148 mL) was added to a mixture of the crude benzyl 4′-(2-methanesulfonyloxyethoxy)-3′,5′-dimethylbiphenyl-4-carboxylate and N-{5-[(1R,2S)-2-amino-1-hydoxy-propyl]-2-benzyloxyphenyl}methanesulfonamide (0.154 g) in N,N-dimethylformamide (2 mL), and the mixture was stirred at 80° C. overnight. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: methylene chloride/methanol=30/1-20/1) to afford the title compound (0.074 g).

reactant | Diisopropylamine | 0.148 mL | C(C)(C)NC(C)C | C6H15N
reactant | benzyl 4′-(2-methanesulfonyloxyethoxy)-3′,5′-dimethylbiphenyl-4-carboxylate | CS(=O)(=O)OCCOC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(=O)OCC1=CC=CC=C1)C | C25H26O6S
reactant | N-{5-[(1R,2S)-2-amino-1-hydoxy-propyl]-2-benzyloxyphenyl}methanesulfonamide | 0.154 g | N[C@H]([C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)OCC1=CC=CC=C1)C | C17H22N2O4S
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzyl 4′-{2-[(1S,2R)-2-(4-benzyloxy-3-methanesulfonylaminophenyl)-2-hydroxy-1-methylethylamino]ethoxy}-3′,5′-dimethylbiphenyl-4-carboxylate | 0.074 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H]([C@H](C)NCCOC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(=O)OCC1=CC=CC=C1)C)O)NS(=O)(=O)C | C41H44N2O7S
